US08236835B2
A mixture of ethyl 2-amino-4-methylthiazole-5-carboxylate (6.58 g, 35.5 mmol) and NaOH (5.40 g, 135.0 mmol) in tetrahydrofuran (60 mL) and water (30 mL) was heated to reflux overnight. Tetrahydrofuran was removed in vacuo, and the residue was neutralized with 5% hydrochloric acid solution to pH 56. The precipitate obtained was collected by filtration and dried to afford the crude 2-amino-4-methylthiazole-5-carboxylic acid (5.20 g, 94%): 1H NMR (300 MHz, DMSO-d6) δ 7.63 (s, 2H), 2.30 (s, 3H); MS (ES+) m/z 159.1 (M+1).

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | 35.5 mmol, 6.58 g | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | NaOH | 135.0 mmol, 5.40 g | [OH-].[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 2-amino-4-methylthiazole-5-carboxylic acid | 5.20 g, 94% | NC=1SC(=C(N1)C)C(=O)O | C5H6N2O2S
